US05597826
7-(Phenylaminocarbonylamino)-1-(4-methyl-1-piperazinyl)-naphthalene
7-Amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.216 g, 0.896 mmol) and phenyl isocyanate (0.222 g, 1.86 mmol) were combined in acetonitrile (14 mL) and refluxed overnight. Phenyl isocyanate (0.106 g, 0.896 mmol) was added and the reaction was refluxed 2 hours more. Upon cooling a tan solid precipitated which was collected and recrystallized from methanol/ethyl acetate to give 0.202 g (62%) of the title product; mp 213°-214° C. Analysis calculated for C22H24N4O: C, 73.31; H, 6.71; N, 15.54. Found: C0 73.03; H, 6.55; N, 15.22.

reactant | 7-Amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.896 mmol, 0.216 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | phenyl isocyanate | 1.86 mmol, 0.222 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | Phenyl isocyanate | 0.896 mmol, 0.106 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
product | 7-(Phenylaminocarbonylamino)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.202 g, 62% | C1(=CC=CC=C1)NC(=O)NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C22H24N4O
